US05639752
F. 3-(2-Dimethylaminoethyl)-5-(2-cyanophenylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 2-fluorobenzonitrile were used. Pyridine was used as base, 2-fluorobenzonitrile was used as solvent, and the reaction was stirred at reflux for 8 hours. Chromatography afforded the title compound (2%) as a clear, pale brown oil: 1H NMR (CD3OD) δ7.43 (dd, J=7.7 and 1.5 Hz, 1H), 7.38 (d, J=1.9 Hz, 1H), 7.34 (d, J=8.6 Hz, 1H), 7.30-7.23 (m, 1H), 7.07 (s, 1H) 6.97 (dd, J=8.6 and 1.9 Hz, 1H), 6.85 (d, J=8.5 Hz, 1H), 6.73-6.67 (m, 1H), 4.91 (s, 2H), 2.92-2.86 (m, 2H), 2.65-2.59 (m, 2H), 2.30 (s, 6H); HRMS calculated for C19H20N4 304.1690, found 304.1682.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
product | 3-(2-Dimethylaminoethyl)-5-(2-cyanophenylamino)-1H-indole | 2% | CN(CCC1=CNC2=CC=C(C=C12)NC1=C(C=CC=C1)C#N)C | C19H20N4
